US07053083B2
Step A. 1-(10,11-Dihydro-5H-dibenzo[b,e][1,4]diazepin-10-yl)-2,2,2-trifluoroethanone
10,11-Dihydro-5H-dibenzo[b,e][1,4]diazepine (3.88 g) in dichloromethane (100 mL) and N,N-diisopropylethyl amine (2.79 g) were cooled in an ice bath and trifluoroacetic anhydride (4.50 g) was slowly added. The reaction mixture was allowed to come to room temperature and stirring was continued overnight. The mixture was filtered and the filtrate washed with water and saturated aqueous sodium bicarbonate, and dried over anhydrous sodium sulfate. The organic extract was filtered through a short column of Magnesol® which was eluted with several additional volumes of dichloromethane. The total effluent was refluxed with the gradual addition of hexane until crystallization was noted. Cooling and filtration afforded the mono acylated title compound (3.34 g), m.p. 140–141° C.

reactant | 10,11-Dihydro-5H-dibenzo[b,e][1,4]diazepine | 3.88 g | C1=CC=CC=2NC3=C(NCC21)C=CC=C3 | C13H12N2
reactant | N,N-diisopropylethyl amine | 2.79 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trifluoroacetic anhydride | 4.50 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 1-(10,11-Dihydro-5H-dibenzo[b,e][1,4]diazepin-10-yl)-2,2,2-trifluoroethanone | 3.34 g | C1=CC=CC=2NC3=C(N(CC21)C(C(F)(F)F)=O)C=CC=C3 | C15H11F3N2O
